US06225311B1
A mixture of ethyl {1-benzyl-4-[(2-hydroxyethyl)sulfanyl]-4-piperidinyl}({[4-(2-butynyloxy)phenyl]sulfonyl}amino)acetate (5.0 g, 8.9 mmol), tributylphosphine (4.04 g, 20 mmol) and 1,1-(azodicarbonyl)-dipiperidine (5.04 g, 20 mmol) was stirred in dry THF at room temperature for 6 h. The reaction sure was quenched with water, extracted with chloroform and washed well with water. The organic layer was dried over anhydrous MgSO4, filtered and concentrated. The product was purified by silica gel column chromatography eluting with 60% ethyl acetate/hexane to give ethyl-9-benzyl-4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1-thia-4,9-diazaspiro[5.5]undecane-5-carboxylate as a pale yellow oil; Yield: 4.2 g (87.5%); Electrospray Mass Spec: 543 (M+H)+.

reactant | ethyl {1-benzyl-4-[(2-hydroxyethyl)sulfanyl]-4-piperidinyl}({[4-(2-butynyloxy)phenyl]sulfonyl}amino)acetate | 8.9 mmol, 5.0 g | C(C1=CC=CC=C1)N1CCC(CC1)(SCCO)C(C(=O)OCC)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC | C28H36N2O6S2
reactant | tributylphosphine | 20 mmol, 4.04 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1-(azodicarbonyl)-dipiperidine | 20 mmol, 5.04 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-9-benzyl-4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1-thia-4,9-diazaspiro[5.5]undecane-5-carboxylate | C(C)OC(=O)C1N(CCSC12CCN(CC2)CC2=CC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)OCC#CC | C28H34N2O5S2
